US04588749
N-(3-(4-Methylphenyl)-1,1-dimethylpropyl)-2-hydroxy-2-phenyl ethanamine
The title compound was prepared in the manner described in Example 9, replacing 2-(4-methylphenyl)-1,1-dimethylethanamine by 3-(4-methylphenyl)-1,1-dimethylpropanamine and 3-trifluoromethylphenyl glyoxal by phenylglyoxal. The chromatographed material was recrystallised from hexane to give the title compound m.p. 107-110. τ (CDCl3) 8.95 (6H, s), 8.2-8.7 (2H, m), 7.8 (3H, s), 7.3-7.7 (4H, m), 5.7-6.5 (2H, m), 5.5 (1H, t, J=6 Hz), 2.9 (4H, s), 2.7 (4H, m).

reactant | 3-(4-methylphenyl)-1,1-dimethylpropanamine | CC1=CC=C(C=C1)CCC(N)(C)C | C12H19N
reactant | 3-trifluoromethylphenyl glyoxal | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | phenylglyoxal | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
product | N-(3-(4-Methylphenyl)-1,1-dimethylpropyl)-2-hydroxy-2-phenyl ethanamine | CC1=CC=C(C=C1)CCC(C)(C)NCC(C1=CC=CC=C1)O | C20H27NO
